US04968702
3-Amino-6-chloro-2-(4-chlorophenyl)-4-quinolinecarboxylic acid
A solution of 4.54 g of 5-chloroisatin in water was reacted with 6.8 g of 2-amino-1-(4-chlorophenyl)ethanone hydrochloride by the procedure described in example 33, giving 6.27 g of the desired compound as a yellow solid,mp 240°-241° C.

reactant | 5-chloroisatin | 4.54 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 2-amino-1-(4-chlorophenyl)ethanone hydrochloride | 6.8 g | Cl.NCC(=O)C1=CC=C(C=C1)Cl
reactant | water | O | H2O
product | 3-Amino-6-chloro-2-(4-chlorophenyl)-4-quinolinecarboxylic acid | 6.27 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)Cl)C1=CC=C(C=C1)Cl | C16H10Cl2N2O2
